US09029295B2
To a solution of E-ethyl 2-(2-t-butoxycarbonyl-2-allylhydrazono)acetate (8.65 g, 33.7 mmol) in dichloromethane (60 ml) was added trifluoroacetic acid (15 ml) at 3° C. After being stirred at room temperature for 1 hour, concentrated in vacuo. The residue was added to a saturated aqueous sodium hydrogen carbonate solution (300 ml), and extracted with ethyl acetate. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give 1.87 g of E-ethyl 2-(2-allylhydrazono)acetate (yield 35%) as oil.

reactant | E-ethyl 2-(2-t-butoxycarbonyl-2-allylhydrazono)acetate | 33.7 mmol, 8.65 g | C(C)(C)(C)OC(=O)N(\N=C\C(=O)OCC)CC=C | C12H20N2O4
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | E-ethyl 2-(2-allylhydrazono)acetate | 1.87 g, yield 35% | C(C=C)N\N=C\C(=O)OCC | C7H12N2O2
